US08202895B2
(2R)-2-[(tert-Butoxycarbonyl)amino]-2-(2-chlorophenyl)propanoic acid
A quantity of 500 mg (2.11 mmol) of (2R)-2-amino-2-[2-(chloromethyl)phenyl]propionoic acid was dissolved in 10 ml of 5% strength sodium hydrogen carbonate solution and admixed with 10 ml of dioxane and then with 511 μl (2.22 mmol) of di-tert-butyl dicarbonate. The mixture was stirred overnight, adjusted cautiously with 1N hydrochloric acid to a pH of 2, and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated on a rotary evaporator. The residue (322 mg, 51% of theory) corresponded to the title compound and was reacted further as such.

reactant | (2R)-2-amino-2-[2-(chloromethyl)phenyl]propionoic acid | 2.11 mmol, 500 mg | N[C@](C(=O)O)(C)C1=C(C=CC=C1)CCl | C10H12ClNO2
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | di-tert-butyl dicarbonate | 2.22 mmol, 511 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | (2R)-2-[(tert-Butoxycarbonyl)amino]-2-(2-chlorophenyl)propanoic acid | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(C)C1=C(C=CC=C1)Cl | C14H18ClNO4
